US07378448B2
Combine benzyl-{2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester (2.5 g), 5% Pd/C (200 mg), and methanol (100 mL) then hydrogenated at 40 PSIG at room temperature for 2 hours. Filter off catalyst then concentrate on a rotary evaporator to yield {2-[4-(4-amino-phenoxy)-phenyl]-ethyl}-benzyl-carbamic acid tert-butyl ester (2.3 g): 1H NMR (CDCl3, 300.00 MHz): 7.42-6.70 (m, 13H), 4.41 (m, 2H), 3.39 (m, 2H), 2.77 (m, 2H), 1.52 (s, 9H). Step 5 4-[4-(2-Benzylamino-ethyl)-phenoxy]-phenylamine

reactant | benzyl-{2-[4-(4-nitro-phenoxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 2.5 g | C(C)(C)(C)OC(N(CCC1=CC=C(C=C1)OC1=CC=C(C=C1)[N+](=O)[O-])CC1=CC=CC=C1)=O | C26H28N2O5
catalyst | Pd/C | 200 mg | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | {2-[4-(4-amino-phenoxy)-phenyl]-ethyl}-benzyl-carbamic acid tert-butyl ester | 2.3 g | C(C)(C)(C)OC(N(CC1=CC=CC=C1)CCC1=CC=C(C=C1)OC1=CC=C(C=C1)N)=O | C26H30N2O3
